US08895580B2
Step 3: Preparation of 5-(biphenyl-4-ylmethyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one
Ethyl 1-(biphenyl-4-ylmethyl)-4-thioxo-1,4-dihydroquinoline-3-carboxylate (0.43 g, 1.1 mmol) and hydrazine (38 μL, 1.1 mmol, 1 equiv) were combined in absolute ethanol (10 mL) and placed into a preheated oil bath at 75° C. for 1 hour. The mixture was cooled to ambient temperature and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 90:10; dichloromethane:methanol), providing the titled compound.

reactant | Ethyl 1-(biphenyl-4-ylmethyl)-4-thioxo-1,4-dihydroquinoline-3-carboxylate | 1.1 mmol, 0.43 g | C1(=CC=C(C=C1)CN1C=C(C(C2=CC=CC=C12)=S)C(=O)OCC)C1=CC=CC=C1 | C25H21NO2S
reactant | hydrazine | 1.1 mmol, 38 μL, 1 equiv | NN | H4N2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-(biphenyl-4-ylmethyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | C1(=CC=C(C=C1)CN1C=C2C(C=3C=CC=CC13)=NNC2=O)C2=CC=CC=C2 | C23H17N3O
